2115-05-23 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2115-5-22**] 11:54 AM
 URINE CULTURE - At [**2115-5-22**] 12:45 PM
   - Converted from insulin gtt to NPH & Q6 sliding scale
   - Free water repleted o/n
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Penicillins
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2115-5-23**] 12:24 AM
   Cefipime - [**2115-5-23**] 04:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2115-5-22**] 01:56 PM
   Heparin Sodium (Prophylaxis) - [**2115-5-22**] 01:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-23**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 65 (65 - 114) bpm
   BP: 90/51(60) {86/44(58) - 114/63(72)} mmHg
   RR: 20 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 6 (-7 - 15)mmHg
   Mixed Venous O2% Sat: 60 - 60
   Total In:
                                                                  5,181 mL
                                                                    667 mL
   PO:
   TF:
                                                                     75 mL
                                                                    196 mL
   IVF:
                                                                  4,266 mL
                                                                    471 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    290 mL
   Urine:
                                                                    720 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,461 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: somnolent, some coughing
   Eyes / Conjunctiva: pinpoint pupils, no change w light
   Head, Ears, Nose, Throat: divots in cranium, old injuries, seen on
   right cranium; no acute injury seen; oropharynx is moist and clear in
   limited exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, g-tube in place, RUQ
   Extremities: Right: Absent, Left: Absent, thickened toenails; several
   small skin breakdown lesions on right
   Skin:  Cool, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Normal, rigid tone of
   neck but otherwise normal/flaccid tone in brief exam.
   Labs / Radiology
   124 K/uL
   12.0 g/dL
   209 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.4 mEq/L
   39 mg/dL
   126 mEq/L
   154 mEq/L
   38.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2115-5-22**]  12:30 PM
                             [**2115-5-22**]  06:41 PM
                             [**2115-5-23**]  12:28 AM
                             [**2115-5-23**]  05:39 AM
   WBC
   11.9
   Hct
   38.6
   Plt
   124
   Cr
   1.2
   1.1
   1.0
   1.0
   Glucose
   [**Telephone/Fax (2) 7811**]9
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.2 mg/dL
   Fluid analysis / Other labs: PT: 14.0  PTT: 34.7  INR: 1.2
   Na Trend:
   155, 160, 157, 152, 154
   Glu Trend: 474, 270, 77, 201, 209
   Imaging: CXR
   Microbiology: C. Diff (-)x2, fecal studies pending
   Blood/Urine Cx pending
   Assessment and Plan
   Mr. [**Known lastname 6621**] is an 87 year old gentleman with recent stroke now admitted to
   the ICU with a UTI and hypernatremia.  Overnight his hypernatremia has
   been correcting and he remained hemodynamically stable overnight
   despite atrial fibrillation and low-normal blood pressure.
   # Urosepsis:  The patient demonstrated signs of hypotension and shock
   prior to transfer.  His initial work-up reflective of UTI with cultures
   pending.  His recent treatment for PNA could also be a source of
   infection.  Overnight his blood pressures remained low-normal but
   stable. He had some episodes of rapid rate but averaged below 100bpm in
   atrial fibrillation.  His cardiac output appears preserved despite low
   SvO2 and there is no indication for inotropy.
   - Continue Cefepime for urosepsis, Vanc for MRSA history and Flagyl
   given recent aspiration PNA
   - F/U Cultures
   - Continue to support with LR as needed to keep CVP 8-12, no pressor
   requirement at this time
   - Goal UOP >40 mL/hr, MAP >65
   # Hypernatremia:  The patient has corrected slowly overnight from
   155->160 back to 154.  Given his rapidly change glucose his true
   progress is close to a true drop from 165 to 157 overnight.  He has
   received 100mL D5W/hr x ~6 hours thus far and 300mL of free water q6 in
   tube feeds.  The etiology of his hypernatremia appears to be
   hypovolemia given that his serum osm are elevated and he is excreting
   very concetrated urine.
   - Continue to correct free water deficit (currently ~ 4L) at a sodium
   rate of 0.5mEq/hour, 75mL D5W/hr + 300mL q6
   - Follow Na q6 hours
   # Hyperglycemia/DMII:  The patient was transferred to with a FSBS in
   the 400s, he was rapidly corrected overnight with an insulin drip and
   converted to NPH and sliding scale.  His elevated sugars are likely
   from poor insulin management in the setting of infection and changing
   renal function.
   - Convert NPH [**7-2**] to Lantus 14 tonight
   # Atrial flutter/fibrillation: Chronic, not in RVR
   -          continue on telemetry
   .
   # ARF:  Resolved with fluid hydration
   # History of traumatic subdural:
   - keppra for seizure prophylaxis
   # Decubitus ulcer:
   -          wound nurse consult
   -          consider air mattress, etc
   .
   # Low platelets
   Appears to be chronic, stable. Would defer workup in setting of acute
   illness, does not appear to be c/w DIC, etc.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2115-5-23**] 01:07 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-5-22**] 11:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU/Possible floor transfer

2115-05-24 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Na corrected overnight
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Penicillins
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2115-5-23**] 07:44 AM
   Cefipime - [**2115-5-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-24**] 12:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-24**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 65 (53 - 68) bpm
   BP: 103/50(63) {96/45(58) - 117/66(76)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 10 (4 - 12)mmHg
   Total In:
                                                                  3,851 mL
                                                                    442 mL
   PO:
   TF:
                                                                    927 mL
                                                                    320 mL
   IVF:
                                                                  1,614 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    400 mL
   Urine:
                                                                  1,050 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,801 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance:  Follows physician with his eyes, looks overall
   improved
   Eyes / Conjunctiva: pinpoint pupils, no change w light
   Head, Ears, Nose, Throat: divots in cranium, old injuries, seen on
   right cranium; no acute injury seen; oropharynx is moist and clear in
   limited exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, g-tube in place, RUQ
   Extremities: Right: Absent, Left: Absent, thickened toenails; several
   small skin breakdown lesions on right
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Examiner Tone: Normal, rigid tone of neck but otherwise normal/flaccid
   tone in brief exam.
   Labs / Radiology
   123 K/uL
   10.8 g/dL
   220 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.6 mEq/L
   24 mg/dL
   121 mEq/L
   148 mEq/L
   34.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2115-5-22**]  12:30 PM
                             [**2115-5-22**]  06:41 PM
                             [**2115-5-23**]  12:28 AM
                             [**2115-5-23**]  05:39 AM
                             [**2115-5-23**]  11:17 AM
                             [**2115-5-23**]  05:26 PM
                             [**2115-5-24**]  12:39 AM
                             [**2115-5-24**]  05:21 AM
   WBC
   11.9
   7.3
   Hct
   38.6
   34.1
   Plt
   124
   123
   Cr
   1.2
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   Glucose
   [**Telephone/Fax (3) 7841**]
   [**Telephone/Fax (3) 7842**]
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.0 mg/dL
   Fluid analysis / Other labs: Osms:310
   PT: 13.4  PTT: 59.6  INR: 1.1
   148*
   [**2115-5-24**] 12:39AM    147
   [**2115-5-23**] 05:26PM    148
   [**2115-5-23**] 11:17AM    149
   Imaging: None
   Microbiology: Urine: Presumptive E. Coli
   C. Diff (-)
   Assessment and Plan
   Mr. [**Known lastname 6621**] is an 87 year old gentleman with recent stroke now admitted to
   the ICU with a UTI and hypernatremia.  Overnight his hypernatremia has
   been correcting and he remained hemodynamically stable overnight
   despite atrial fibrillation and low-normal blood pressure.
   # Hypovolemic Hypernatremia:  Corrected to 148.  Free water deficit:
   2.5L , Serum OSM still elevated to 310, but correcting.
   - Continue to correct free water deficit (currently ~ 2.5L) at a sodium
   rate of 0.5mEq/hour, 75mL D5W/hr + 300mL q6 over 12 hours
   - Follow Na q12 hours
   # E. Coli UTI:  WBC resolving, afebrile, not hypotensive.  Continue
   Cefepime until cultures/sensitivities return
   - Continue Cefepime for E. Coli UTI, narrow as sensitivities return.
   - F/U Cultures
   # Hyperglycemia/DMII:  Still 200s overnight, receiving constant sugar
   infusion.  Total sliding scale was 22 units overnight.
   -Uptitrate Lantus from 18 to 25 while receiving D5W
   # History of traumatic subdural:
   - keppra for seizure prophylaxis
   # Decubitus ulcer:
   -          wound nurse consult
   -          consider air mattress, etc
   # Low platelets
   Appears to be chronic, stable. Would defer workup in setting of acute
   illness, does not appear to be c/w DIC, etc.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2115-5-24**] 04:00 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-5-22**] 11:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2115-05-25 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Na improving, only 1 500 cc D5w bolus overnight
   - Overnight 4 second pauses on telemetry, sinus brady to 50s.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Penicillins
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2115-5-23**] 07:44 AM
   Cefipime - [**2115-5-24**] 04:00 AM
   Bactrim (SMX/TMP) - [**2115-5-24**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-5-25**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-25**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 61 (53 - 98) bpm
   BP: 105/53(66) {97/19(61) - 129/71(83)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 10 (9 - 13)mmHg
   Total In:
                                                                  2,445 mL
                                                                  1,487 mL
   PO:
   TF:
                                                                  1,095 mL
                                                                    318 mL
   IVF:
                                                                    290 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    740 mL
   Urine:
                                                                  1,245 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,200 mL
                                                                    747 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance:  Follows physician with his eyes, looks overall
   improved
   Eyes / Conjunctiva: Pupils reactive, R ptergyium
   Head, Ears, Nose, Throat: divots in cranium, old injuries, seen on
   right cranium; no acute injury seen; oropharynx is moist and clear in
   limited exam
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, g-tube in place, RUQ
   Extremities: Right: Absent, Left: Absent, thickened toenails; several
   small skin breakdown lesions on right
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Examiner Tone: Normal, rigid tone of neck but otherwise normal/flaccid
   tone in brief exam.
   Labs / Radiology
   134 K/uL
   11.1 g/dL
   131 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   19 mg/dL
   118 mEq/L
   146 mEq/L
   33.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2115-5-22**]  12:30 PM
                             [**2115-5-22**]  06:41 PM
                             [**2115-5-23**]  12:28 AM
                             [**2115-5-23**]  05:39 AM
                             [**2115-5-23**]  11:17 AM
                             [**2115-5-23**]  05:26 PM
                             [**2115-5-24**]  12:39 AM
                             [**2115-5-24**]  05:21 AM
                             [**2115-5-24**]  05:32 PM
                             [**2115-5-25**]  04:03 AM
   WBC
   11.9
   7.3
   7.9
   Hct
   38.6
   34.1
   33.7
   Plt
   124
   123
   134
   Cr
   1.2
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   1.0
   0.9
   Glucose
   [**Telephone/Fax (3) 7841**]
   [**Telephone/Fax (3) 7842**]
   247
   131
   Other labs: Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: NA Trend: 148, 147, 146
   Imaging: None
   Microbiology: UCx: Coag + Staph
   C. diff (-) x2
   Assessment and Plan
   Mr. [**Known lastname 6621**] is an 87 year old gentleman with recent stroke now admitted to
   the ICU with a UTI and hypernatremia.  He is doing well with corrected
   hypernatremia but developed bradycardia with 4 second pauses overnight.
   # Bradycardia: The patient has developed pauses, sinus bradycardia to
   the 50s, and bursts of tachycardia in the high 90s.  This rhythm is
   preliminarily consistent with sick sinus syndrome.  The patient is not
   on any culprit medicines (beta blockers, lithium, digoxin,
   cimetidine).  It may have to due with his underlying illness.  As the
   patient is asymptomatic and the treatment for sick sinus is pacemaker,
   we will consult cardiology, but this will not hold up the patient
   transfer to the medical floor.
   # Hypovolemic Hypernatremia:  Due to on-going insufficient free water
   repletion. Currently corrected to 146 with a free water deficit of
   1.8L  and today
s serum Osm pending.  The patient only required a small
   amount of supplemental D5W but is otherwise managed on tube feed free
   water flushes.
   - Continue to correct free water deficit by increasing free water to
   400mL q4
   - Follow Na q12 hours
   # E. Coli & Staph Aureus UTI:  The sensitivities of the Staph are still
   pending, but the E. Coli is pan-sensitive except for Cipro.  His
   leukocytosis has resolved with stable blood pressures.
   - Vanc/Bactrim x 6days, narrow with further sensitivities
   # Hyperglycemia/DMII:  Still 200-300s overnight in an around the time
   of dextrose infusion. I will monitor his FSBS throughout the day before
   changing his Lantus dose given his decreased D5W intake today.
   # History of traumatic subdural:
   - Continue keppra for seizure prophylaxis
   # Decubitus ulcer:
   -          wound nurse consult
   -          consider air mattress, etc
   # Low platelets
   Appears to be chronic, stable. Would defer workup in setting of acute
   illness, does not appear to be c/w DIC, etc.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2115-5-25**] 06:10 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-5-22**] 11:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Post-rounds addendum:
   Will discontinue Vancomycin as Bactrim should be sufficient coverage
   for E. Coli and Staph.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4777**], MD
   on:[**2115-5-25**] 14:55 ------